US09422245B2
5-[(1R,2R)-1-(2-Chlorobenzyl)-2-ethoxycarbonyl-2-hydroxyethylcarbamoyl]-2H-pyrazole-3-carboxylic Acid Ethyl Ester
(2R,3R)-3-Amino-4-(2-chloro-phenyl)-2-hydroxy-butyric acid methyl ester (735 mg, 3.0 mmol, 1.0 eq.), HATU (1.2 g, 3.2 mmol, 1.0 eq.), and 3,5-pyrazoledicarboxylic acid (0.5 g, 3.2 mmol, 1.0 eq.) were combined in DMF (5 mL) and stirred. DIPEA (2 mL, 4.0 eq.) was added and the mixture was stirred for 1 hour at room temperature. EtOAc (200 mL) was added and the mixture was washed with 1N HCl (100 mL), NaHCO3 ((100 mL), and saturated aqueous NaCl (100 mL). The organic layer was retained and dried over anhydrous MgSO4 for 10 minutes prior to filtration. The product was then vacuumed to dryness. The product was dissolved in absolute EtOH (100 mL) and concentrated HCl (1 mL) was added, and the mixture refluxed for 5 hours. EtOAc (200 mL) was added and the mixture was washed with 1N HCl (100 mL) followed by NaHCO3 (100 mL) and then saturated aqueous NaCl (100 mL). The organic layer was retained and dried over anhydrous MgSO4 for 10 minutes prior to filtration and evacuation to dryness to yield the title compound (750 mg).

reactant | (2R,3R)-3-Amino-4-(2-chloro-phenyl)-2-hydroxy-butyric acid methyl ester | 3.0 mmol, 735 mg, 1.0 eq. | COC([C@@H]([C@@H](CC1=C(C=CC=C1)Cl)N)O)=O | C11H14ClNO3
reactant | HATU | 3.2 mmol, 1.2 g, 1.0 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3,5-pyrazoledicarboxylic acid | 3.2 mmol, 0.5 g, 1.0 eq. | N1N=C(C=C1C(=O)O)C(=O)O | C5H4N2O4
reactant | DIPEA | 2 mL, 4.0 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 5-[(1R,2R)-1-(2-Chlorobenzyl)-2-ethoxycarbonyl-2-hydroxyethylcarbamoyl]-2H-pyrazole-3-carboxylic Acid Ethyl Ester | 750 mg | C(C)OC(=O)C=1NN=C(C1)C(N[C@@H]([C@@H](O)C(=O)OCC)CC1=C(C=CC=C1)Cl)=O | C19H22ClN3O6
